US03931412
An 88-g (2 mols) sample of acetaldehyde was added in small portions to a solution of 260 g (2 mols) of propionic anhydride at 60°C. The reaction mixture was then stirred at about 25°C for 7 hours. The reaction mixture was diluted with saturated sodium bicarbonate solution and extracted with methylene dichloride. The methylene dichloride extracts were dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was distilled through a 16-inch column to give 316.5 g of ethylidene bispropionate, b.p. 57°C. (1 mm/Hg).

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | propionic anhydride | 2 mols, 260 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | ethylidene bispropionate | 316.5 g | C(CC)(=O)OC(C)OC(CC)=O | C8H14O4
